US05607960
5-(3-Hydroxy-3-methyl-1-but-1-enyl)-3-(N-methyl-2(R)-pyrrolidinylmethyl)-1H-indole
A stirred solution of 5-bromo-3-(N-methyl-2(R)-pyrrolidinylmethyl)-1H-indole (WO-A-92/06973; 879 mg, 3.0 mmol), 2-methylbut-3-en-2-ol (0.408 ml, 3.9 mmol), tri-o-tolylphosphine (273 mg, 0.90 mmol), palladium(II) acetate (45 mg, 0.20 mmol), triethylamine (0.84 ml, 6.0 mmol) and acetonitrile (50 ml), under nitrogen, was heated under reflux for 24 hours, allowed to cool, then partitioned between ethyl acetate and 2M aqueous sodium carbonate solution. The organic phase was separated, washed sequentially with 2M aqueous sodium carbonate solution (×2) and brine (×1), dried (Na2SO4) and evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel, eluting with a solvent gradient of 0.880 aqueous ammonia:methanol: dichloromethane (0:5:95 to 0.5:5:95), to afford the title compound as a solid (226 mg), m.p. 155°-158° C. Rf 0.10 (SS 1). [α]D25 +81° (c=0.1, CH3OH). Found: C,75.27; H,8.96; N,8.99. C19H26N2O; 0.25 H2O requires C,75.33; H,8.82; N,9.25%.

reactant | 5-bromo-3-(N-methyl-2(R)-pyrrolidinylmethyl)-1H-indole | 3.0 mmol, 879 mg | BrC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C | C14H17BrN2
reactant | 2-methylbut-3-en-2-ol | 3.9 mmol, 0.408 ml | CC(C)(C=C)O | C5H10O
reactant | tri-o-tolylphosphine | 0.90 mmol, 273 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 6.0 mmol, 0.84 ml | C(C)N(CC)CC | C6H15N
catalyst | palladium(II) acetate | 0.20 mmol, 45 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 5-(3-Hydroxy-3-methyl-1-but-1-enyl)-3-(N-methyl-2(R)-pyrrolidinylmethyl)-1H-indole | 226 mg | OC(C=CC=1C=C2C(=CNC2=CC1)C[C@@H]1N(CCC1)C)(C)C | C19H26N2O
